US06824709B2
36M-sulfuric acid (12 mL) was slowly dropwise added to a mixture of 2,7-diacetyl-9-methylfluorene (30 g), dichloromethane (30 mL), acetic anhydride (35 g) and a 34% hydrogen peroxide aqueous solution (34.6 g) while maintaining 3° C. or lower. The resulting mixture was stirred at 24° C. for 7 hours and then poured into water. The separated organic layer was sufficiently washed in order with saturated sodium hydrogencarbonate, 10% saturated sodium hydrogensulfite and water, and then dried on anhydrous magnesium sulfate. The solvent was distilled off from this organic layer under reduced pressure, and the resulting residue was purified by means of column chromatography (silica gel, eluting solvent: heptane/toluene [6/4]) and recrystallization (ethanol) to obtain 2,7-diacetyloxy-9-methylfluorene (12.4 g) of colorless crystal. Melting point: 138.6-139.7° C.

reactant | sulfuric acid | 12 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2,7-diacetyl-9-methylfluorene | 30 g | C(C)(=O)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C(C)=O)C | C18H16O2
reactant | acetic anhydride | 35 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrogen peroxide | 34.6 g | OO | H2O2
solvent | water | O | H2O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2,7-diacetyloxy-9-methylfluorene | 12.4 g | C(C)(=O)OC1=CC=2C(C3=CC(=CC=C3C2C=C1)OC(C)=O)C | C18H16O4
